US07115611B2
445 mg (0.889 mmol) of 2-{4-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester and 2.7 ml 1N LiOH in 5 ml tetrahydrofurane were stirred at 50° C. over night. The reaction mixture was taken up in ether and washed with 1N HCl and water. The crude product was suspended with AcOEt/heptane 1:19. The resulting crystals were filtered off providing 393 mg pure 2-{4-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-phenoxy}-2-methyl-propionic acid.

reactant | 2-{4-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester | 0.889 mmol, 445 mg | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O | C27H27F3N2O4
reactant | LiOH | 1N, 2.7 ml | [Li+].[OH-]
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-{4-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-phenoxy}-2-methyl-propionic acid | 393 mg | C1(CC1)C1=NC(=NC=C1COC1=CC=C(OC(C(=O)O)(C)C)C=C1)C1=CC=C(C=C1)C(F)(F)F | C25H23F3N2O4
